US08957212B2
To the solution dissolved 12.1 g of N,N′-carbonyldiimidazole (75 mmol; produced by Wako Pure Chemical Industries, Ltd) into 50 mL of dehydrated dimethylformamide (dehydrated DMF), 15.8 g of 2-anthraquinonyl-1-ethylalcohol (62 mmol) obtained by the same method as Synthetic Example 5 was added, then, the solution was reacted by stirring for 1 hour at room temperature. After completing reaction, ice-water was poured into the reaction solution, and this mixed solution was extracted with toluene, and further after organic layer after extraction was washed with water, the organic layer was condensed. The resultant condensed residue was purified with column chromatography (Filler: Silica-gel (Wako-gel C-200; produced by Wako Pure Chemical Industries, Ltd.), Developing solvent: ethyl acetate/n-heptane=1/9) to obtain 12.3 g of 2-anthraquinonyl-1-ethyl 1-imidazolylcarboxylate (yield: 57%) as yellow crystal. Subsequently, to the solution dissolved the resultant crystal of 2-anthraquinonyl-1-ethyl 1-imidazolylcarboxylate into 50 mL of dehydrated dimethylformamide (dehydrated DMF), 4.2 g of piperidine (50 mmol) was added, then, the solution was reacted for 1 hour at room temperature. After completing reaction, ice-water was poured into the reaction solution, this mixed solution was extracted with toluene, and further, organic layer after extraction was washed with water, the organic layer was condensed. The resultant condensed residue was purified with column chromatography (Filler: Silica-Gel (Wako-Gel C-200; produced by Wako Pure Chemical Industries, Ltd.), Developing solvent: ethyl acetate/n-heptane=1/9) to obtain 9.8 g of 2-anthraquinonyl-1-ethyl piperidinecarboxylate (yield: 43%) represented by the above-described formula [12] as yellow crystal. Measurement results of 1H-NMR and melting point are shown as the follows:

reactant | 2-anthraquinonyl-1-ethyl 1-imidazolylcarboxylate | N1(C=NC=C1)C(=O)OCCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C20H14N2O4
reactant | piperidine | 50 mmol, 4.2 g | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-anthraquinonyl-1-ethyl piperidinecarboxylate | 9.8 g, yield: 43% | N1(CCCCC1)C(=O)OCCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C22H21NO4
